US08497274B2
(ii) Production of 3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-N-[3-(trifluoromethyl)phenyl]benzamide
To a solution of potassium thiocyanate (740 mg, 7.64 mmol) in acetic acid (22 mL) was added 3-(4-amino-2-nitrophenoxy)-N-[3-(trifluoromethyl)phenyl]benzamide (800 mg, 1.91 mmol), and the mixture was stirred at room temperature for 10 min. A solution of bromine (320 mg, 2.00 mmol) in acetic acid (12 mL) was slowly added dropwise to the obtained solution, and the mixture was stirred at room temperature for 6 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (100 mL), washed successively with saturated aqueous sodium hydrogen carbonate solution (100 mL×2) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=30/70→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound (290 mg, 32%) as a red-orange powder.

reactant | potassium thiocyanate | 7.64 mmol, 740 mg | [S-]C#N.[K+]
reactant | 3-(4-amino-2-nitrophenoxy)-N-[3-(trifluoromethyl)phenyl]benzamide | 1.91 mmol, 800 mg | NC1=CC(=C(OC=2C=C(C(=O)NC3=CC(=CC=C3)C(F)(F)F)C=CC2)C=C1)[N+](=O)[O-] | C20H14F3N3O4
reactant | bromine | 2.00 mmol, 320 mg | BrBr | Br2
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-N-[3-(trifluoromethyl)phenyl]benzamide | 290 mg, 32% | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2 | C21H13F3N4O4S
